Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Transfer from ___ for concerns of posterior circulation 
stroke
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
HPI:
The pt is a ___ year-old right-handed man with history of
hypertension, hyperlipidemia, migraines with vertigo, gout,
anxiety, hypomania with depression, who presents from ___
as a transfer for posterior circulation strokes.

The patient is quite tangential when providing history and is
here unaccompanied. He states that for the past week he has been
experiencing dizziness and gait instability described as "shaky
when I walk or go up stairs", needing to grab on to the railing
in order to prevent falling. He also reports increased fatigue
and low energy, which he also attributes to increased stress
recently. When asked to describe his dizziness, he endorses
retroorbital left eye pain as well as bifrontal and temporal
headache. He denies sensation of room spinning or
lightheadedness, as well as any vision changes. He denies any 
new
dysarthria or changes in speech or language.

Per transfer documentation, he was brought in by his family who
also noted worsening disorientation, forgetfulness, and slurred
speech. When asked, he does endorse that his memory is poorer 
and
he has more difficulty remembering events and people's names in
the past week. He denies any difficulty usually.

While at ___, initially thought was that this could
represent a usual vertiginous migraine, though he states it 
feels
different. Neurology was consulted and recommended imaging with
MRI/MRA, which showed bilateral posterior circulation infarcts
within the cerebellum, left>right, and left occipital lobe, and
vessel imaging showed basilar artery stenosis vs total 
occlusion.
Transfer request to ___ was made and accepted for further 
care.

On neuro ROS, the pt denies loss of vision, blurred vision,
diplopia, dysarthria, dysphagia, lightheadedness, vertigo,
tinnitus or hearing difficulty. Denies difficulties producing or
comprehending speech. Denies focal weakness, numbness. No bowel
or bladder incontinence or retention.
 
On general review of systems, the pt denies recent fever or
chills. No night sweats or recent weight loss or gain. Denies
cough, shortness of breath. Denies chest pain or tightness,
palpitations. Denies nausea, vomiting, diarrhea, constipation or
abdominal pain. No recent change in bowel or bladder habits. No
dysuria. Denies arthralgias or myalgias. Denies rash.  
 
Past Medical History:
PMH:
Hypertension
Hyperlipidemia
Vertiginous migraines
Gout
Depression with hypomania

PSH:
Deviated septum surgery s/p nasal trauma
 
Social History:
___
Family History:
Mother - MI, stroke age ___, DM 
Father - died age ___, had AD, stroke age ___, MI
Sibs - 1 sister HLD and ___
Children - 1 son, 1 daughter with migraines
 
Physical Exam:
Physical Exam:
Vitals: temp 8.2 BP 158/70 HR 78 RR 19 spO2 98% RA
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no nuchal rigidity
Pulmonary: Lungs CTA
Cardiac: RRR, nl
Abdomen: soft, NT/ND
Extremities: No C/C/E bilaterally
Skin: no rashes or lesions noted

Neurologic:

-Mental Status: Alert, oriented x3. Able to relate history 
though
tangential and perseverative. Attentive, able to name ___
backward without difficulty. Language is fluent with intact
repetition and comprehension. Normal prosody. Few semantic
paraphasic errors on naming ("head" for watch face, "locket" for
the band). Otherwise, pt was able to name both high and low
frequency objects. Able to read without difficulty. Speech was
not dysarthric. Able to follow both midline and appendicular
commands. Pt was able to register 3 objects and recall ___ at 10
minutes, able to recall ___ with multiple choice and category
cues. There was no evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. Visual acuity
___ bilaterally. Fundoscopic exam revealed no papilledema,
exudates, or hemorrhages.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk throughout. Increased tone on the left >
right upper extremity, likely paratonia but possibly some
spasticity on the left side. No pronator drift bilaterally. No
adventitious movements, such as tremor, noted. No asterixis
noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5   5
R  5    ___   ___  5   5    5  5     5     5   5

-Sensory: No deficits to light touch, pinprick, cold sensation,
throughout. No extinction to DSS.

-DTRs:
  ___ Tri ___ Pat Ach
L  2+ 2+   2+   3   2
R  2+ 2+   2+   3   2
Plantar response was flexor bilaterally.

-Coordination: No intention tremor noted. FNF and HKS slightly
slower on left side. No dysmetria.

-Gait: Good initiation. No truncal ataxia on standing, Romberg
absent. Normal stride, arm swing on walking. However he is 
unable
to tandem walk or turn without listing significantly to both
sides.
_
________________________________________________________________
Discharge Exam:
Mental Status: Alert, oriented x3. Speech fluent without 
paraphrasic errors, no dysarthria, follows commands.

Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOM full with mild 
nystagmus on far right gaze
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline without atrophy or 
fasiculations.

Motor: Normal bulk throughout. Normal tone. No pronator drift
  Delt Bic Tri  IP Quad Ham TA ___ 
L  5    ___   ___  5   5      5  
R  5    ___   ___  5   5      5  

Sensory: intactlight touch throughout
DTRs:
  ___ Pat Ach
L  2+ 2+   2+   2
R  2+ 2+   2+   2
Plantar response was flexor bilaterally.

Coordination: Minimal b/l UE ataxia (subtle and improving).  
Continued gait unsteadiness.

 
Pertinent Results:
Laboratory Data (___):

6 > 16.___.8 < 166

PTT 33.3 INR 1.0

136  95   19
---|----|---< 101
4.0  25  1.08

UA negative

EKG: sinus rhythm

Radiologic Data:

MRI/MRA head ___:
CONCLUSION:  Multiple  late  acute  or  early  subacute  
infarcts
within  the cerebellar  hemispheres,  as  well  as  left 
occipital  lobe.    Other findings  noted  above,  including 
bilateral  parotid  gland  lesions requiring  further  work-up, 
including  sonography.   

CXR ___:
IMPRESSION: Heart size is normal. Mediastinum is normal. Lungs 
are clear.  There is no pleural effusion. There is no 
pneumothorax.

CTA Head and Neck ___
IMPRESSION: 
1. Evolving acute infarcts in bilateral cerebellar hemispheres 
and left 
occipital pole, as seen on the ___ MRI. No acute 
hemorrhage. 
2. Mild atherosclerosis of bilateral proximal internal carotid 
arteries with approximately 10% stenosis by NASCET criteria on 
the right and no stenosis by NASCET criteria on the left. 
3. Mixed plaque in the cavernous left internal carotid artery 
with mild 
associated stenosis ; comparison to the ___ MRA is 
limited by 
differences in modalities.  Calcified plaque in bilateral 
paraclinoid/ 
supraclinoid internal carotid arteries without significant 
stenosis. 
4. High-grade stenosis of the proximal inferior division of the 
left middle cerebral artery, new since ___. 
5. Irregularity of the proximal to mid basilar artery with 2 
foci of 
high-grade stenosis.  Occlusion of the right posterior cerebral 
artery.  
Irregularity of the P1 segment of the left posterior cerebral 
artery with 
focal high-grade stenosis at the junction with the P2 segment, 
and diminished caliber of the left P2 segment.  These 
abnormalities are new compared to ___.  Absence of acute 
right PCA territory infarction suggests that right PCA occlusion 
is not acute.  Posterior communicating arteries are not 
visualized.  
Peripheral collateral flow to the right PCA territory from 
anterior 
circulation and possibly also external collaterals are 
suspected. 

CTA Head and Neck ___ (Ordered after TIA)
IMPRESSION:   
1.  Evolving left occipital and bilateral cerebellar infarcts.  
No evidence of intracranial hemorrhage or new vascular 
territorial infarction. 
  
2.  Irregularity and high-grade stenosis of the midbasilar 
artery spanning 
approximately 5 mm, occlusion of the right posterior cerebral 
artery, and 
irregularity of the P1 segment of the left cerebral artery are 
grossly 
unchanged compared to prior examination. 

___ 12:20AM BLOOD WBC-8.3 RBC-5.08 Hgb-15.3 Hct-43.6 MCV-86 
MCH-30.1 MCHC-35.1 RDW-12.5 RDWSD-38.7 Plt ___
___ 12:20AM BLOOD Neuts-69.7 ___ Monos-9.1 Eos-0.6* 
Baso-0.4 Im ___ AbsNeut-5.80 AbsLymp-1.65 AbsMono-0.76 
AbsEos-0.05 AbsBaso-0.03
___ 12:20AM BLOOD Glucose-100 UreaN-15 Creat-1.1 Na-136 
K-3.6 Cl-99 HCO3-27 AnGap-14
___ 12:20AM BLOOD ALT-28 AST-21 LD(LDH)-157 CK(CPK)-117 
AlkPhos-43 TotBili-0.9
___ 12:20AM BLOOD Albumin-4.5 Calcium-9.3 Phos-2.8 Mg-2.1 
Cholest-250*
___ 12:20AM BLOOD %HbA1c-4.5 eAG-82
___ 12:20AM BLOOD Triglyc-360* HDL-37 CHOL/HD-6.8 
LDLcalc-141*
___ 12:20AM BLOOD TSH-3.1
___ 06:20AM BLOOD WBC-6.8 RBC-4.87 Hgb-14.7 Hct-42.7 MCV-88 
MCH-30.2 MCHC-34.4 RDW-12.6 RDWSD-39.8 Plt ___
___ 10:20AM BLOOD Neuts-71.5* ___ Monos-7.6 
Eos-0.6* Baso-0.5 Im ___ AbsNeut-4.63 AbsLymp-1.25 
AbsMono-0.49 AbsEos-0.04 AbsBaso-0.03
___ 06:20AM BLOOD Plt ___
___ 06:20AM BLOOD Glucose-83 UreaN-13 Creat-1.2 Na-138 
K-3.5 Cl-102 HCO3-27 AnGap-13
___ 12:20AM BLOOD ALT-28 AST-21 LD(___)-157 CK(CPK)-117 
AlkPhos-43 TotBili-0.9
___ 12:20AM BLOOD CK-MB-3 cTropnT-<0.01
___ 06:20AM BLOOD Calcium-8.3* Phos-3.0 Mg-1.9
___ 12:20AM BLOOD %HbA1c-4.5 eAG-82
___ 12:20AM BLOOD Triglyc-360* HDL-37 CHOL/HD-6.8 
LDLcalc-141*
___ 12:20AM BLOOD TSH-3.1
___ 12:20AM BLOOD Free T4-1.6
 
Brief Hospital Course:
Mr. ___ was transferred from OS___ on ___ in the setting of 
severe intracranial posterior circulation atherosclerotic 
disease and bilateral cerebellar infarcts and left occipital 
infarct.

He was admitted and monitored.  Repeat CTA confirmed significant 
intracranial atherosclerosis  (basilar artery stenosis, 
bilateral PCA stenosis, stenosis of left ICA at the cavernous 
portion).  This was a notable change from prior MRA imaging ___ 
years ago.  As part of stroke evaluation, Transthoracic echo was 
performed on ___ and showed LVEF 70% with no signs of 
thrombus.

On ___, he had an abrupt change in speech, flattening of 
right nasolabial ridge and left sided weakness concerning for 
new infarct, thus a STAT Head CT and CTA head/neck was 
completed.  Repeat imaging did not show any new infarcts.  Due 
to concerns of stable atherosclerosis, he was started on Dual 
antiplatelet therapy (Plavix in addition to aspirin), with plans 
for 3 months of DAPT.  Following this he will likely transition 
to single agent.  MRI Brain did not show any signs evidence of 
inflammatory changes or contrast enhancement.

Mr. ___ continued to do well on dual anti-platelet therapy 
with no further events.  His activity was liberated and was 
cleared for discharge to rehab.

***Dual antiplatelet therapy of Aspirin and Plavix is to be for 
3months only ___

Transitions of Care: 
1. Please continue to take aspirina nd plavix for 3 months. 
2. Please follow up with the stroke neurology physician on 
___. 
3. Please Follow up with the cholesterol specialist on ___
4. Given recent ischemic infarct, please allow for permissive 
hypertension for the next ___ days to 180 systolic. 
AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack  
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed – () No  
2. DVT Prophylaxis administered? (x) Yes - () No  
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No  
4. LDL documented? (x) Yes (LDL = ) - () No  
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 100) (x) Yes - () No [if 
LDL >100, reason not given: ]  
6. Smoking cessation counseling given? () Yes - () No [reason 
(x) non-smoker - () unable to participate]  
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No  
8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No  
9. Discharged on statin therapy? (x) Yes - () No [if LDL >100, 
reason not given: ]  
10. Discharged on antithrombotic therapy? (x) Yes [Type: (x) 
Antiplatelet - () Anticoagulation] - () No  
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - (x) No - () N/A  

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Fenofibrate 200 mg PO DAILY 
2. Losartan Potassium 100 mg PO DAILY 
3. Aspirin 81 mg PO 2X/WEEK (___) 
4. Indomethacin 25 mg PO TID:PRN Gout 
5. ClonazePAM 0.5 mg PO ONCE DAILY PRN anxiety 
6. FLUoxetine 20 mg PO QAM - not taking as prescribed

 
Discharge Medications:
1.  Atorvastatin 80 mg PO QPM  
2.  Clopidogrel 75 mg PO DAILY  
3.  Aspirin 81 mg PO DAILY  
4.  ClonazePAM 0.5 mg PO ONCE DAILY PRN anxiety  
5.  Fenofibrate 200 mg PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Bilateral cerebellar stroke secondary to basilar artery stenosis
Stenosis of left and right posterior cerebellar artery
Stenosis of the left internal carotid artery - cavernous portion
Atherosclerosis
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,  
You were hospitalized due to symptoms of unsteadiness and 
slurred speech resulting from an ACUTE ISCHEMIC STROKE, a 
condition where a blood vessel providing oxygen and nutrients to 
the brain is blocked by a clot. The brain is the part of your 
body that controls and directs all the other parts of your body, 
so damage to the brain from being deprived of its blood supply 
can result in a variety of symptoms.  
Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:  
Elevated triglycerides 360, Elevated LDL 141
 
We are changing your medications as follows:  
Begin Plavix 75mg daily and Aspirin 81mg daily

Please take your other medications as prescribed.  
Please follow-up with Neurology and your primary care physician 
as listed below.  
If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
- Sudden partial or complete loss of vision  
- Sudden loss of the ability to speak words from your mouth  
- Sudden loss of the ability to understand others speaking to 
you  
- Sudden weakness of one side of the body  
- Sudden drooping of one side of the face  
- Sudden loss of sensation of one side of the body  
 
Followup Instructions:
___